US04230707
A mixture of 24.0 g (0.1538 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) and 32.8 g (0.1538 mol) of 2-amino-5-(1-methylethyl)-3-thiophenecarboxylic acid, ethyl ester (Tetrahedron, Vol. 33, pages 2089-2092, 1977) is heated in a wax bath at 178°-182° C. for two hundred five minutes and then at 180°-196° C. for sixty-five minutes under nitrogen. The mixture is cooled, suspended in hot methanol and filtered to give 8.9 g of 2-(1-methylethyl)-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide; mp 280°-282° C. after recrystallization from dimethylformamide.

reactant | 6-chloro-3-pyridinecarboxamide | 0.1538 mol, 24.0 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | 2-amino-5-(1-methylethyl)-3-thiophenecarboxylic acid, ethyl ester | 0.1538 mol, 32.8 g | NC=1SC(=CC1C(=O)OCC)C(C)C | C10H15NO2S
solvent | methanol | CO | CH4O
product | 2-(1-methylethyl)-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide | 8.9 g | CC(C)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)N)S1 | C14H13N3O2S
